US05489677
5'-O-Phthalimidothymidine
To a stirred solution of thymidine (24.22 g, 0.1 mol), N-hydroxyphthalimide (21.75 g, 0.13 mol), triphenylphosphine (34 g, 0.13 mol) in dry DMF (400 ml) was added diisopropylazodicarboxylate (30 ml, 0.15 mol) over a period of 3 h at 0° C. After complete addition the reaction mixture was warmed up to room temperature and stirred for 12 h. The solution was concentrated under vacuum (0.1 mm, <40° C.) to furnish an orange-red residue. The residual gum was washed several times with Et2O and washing were discarded. The semi-solid residue was suspended in EtOH (500 ml) and heated (90° C.) to dissolve the product. On cooling 30.98 g (80%) of 5'-O-phthalimidothymidine was collected in 3-crops as white crystalline material, mp 233°-235° C. (decomp.); 1H NMR (DMSO-d6) δ11.29 (s, 1, NH), 7.85 (m , 4, ArH), 7.58 (s, 1, C6H), 6.20 (t, 1, H1', J1',2' =7.8 Hz, J1',2" =6.5 Hz ), 5.48 (d, 1, OH3'), 4.36 (m, 3, H4',5',5"), 4.08 (m, 1, H3'), 2.09-2.13 (m, 2, H2',2"), and 1.79 (s, 3, CH3). Anal. Calcd. for C18H17O7N3. 0.7 H2O: C, 54.05; H, 4.64; N, 10.51. Found: C, 53.81; H, 4.25; N, 10.39.

reactant | thymidine | 0.1 mol, 24.22 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | N-hydroxyphthalimide | 0.13 mol, 21.75 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.13 mol, 34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.15 mol, 30 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 5'-O-Phthalimidothymidine | C1(C=2C(C(N1OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)=O)=CC=CC2)=O | C18H17N3O7
